US07728030B2
Methyl 4-{5-[(1R,2S)-2-amino-1-phenylpropoxy]-1H-indazole-1-yl}benzoate
(1R,2S)-Norephedrine (500 mg, 3.31 mmol), methyl-4-(5-iodoindazole-1-yl)-benzoate (1.28 g, 3.37 mmol), cesiumcarbonate (2.15 g, 6.61 mmol), copper (I)-iodide (314.9 mg, 1.65 mmol) and butyronitrile (2 mL) are stirred in a glass pressure tube at 120° C. for 20 h. The reaction mixture is filtered via a glass microfibre filter, the solvent evaporated and the residue purified by chromatography (silicagel, eluents: dichloromethane/methanol). 217.9 mg (16.4%) of the title compound are obtained.

reactant | (1R,2S)-Norephedrine | 3.31 mmol, 500 mg | C[C@@H]([C@@H](C1=CC=CC=C1)O)N | C9H13NO
reactant | methyl-4-(5-iodoindazole-1-yl)-benzoate | 3.37 mmol, 1.28 g | COC(C1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)I)=O | C15H11IN2O2
reactant | cesiumcarbonate | 6.61 mmol, 2.15 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | butyronitrile | 2 mL | C(CCC)#N | C4H7N
catalyst | copper (I)-iodide | 1.65 mmol, 314.9 mg | [Cu]I
product | Methyl 4-{5-[(1R,2S)-2-amino-1-phenylpropoxy]-1H-indazole-1-yl}benzoate | 217.9 mg, 16.4% | N[C@H]([C@H](OC=1C=C2C=NN(C2=CC1)C1=CC=C(C(=O)OC)C=C1)C1=CC=CC=C1)C | C24H23N3O3
